US07820654B2
Synthesis of2-(2-amino-6-phenyl-pyrimidin-4-ylamino)-benzoic acid
2-(2-Amino-6-phenyl-pyrimidin-4-ylamino)-benzoic acid was prepared by hydrolyzing 2-(2-amino-6-phenyl-pyrimidin-4-ylamino)-benzoic acid ethyl ester (0.2 g, 0.59 mmol) in methanol (5 mL) using aqueous solution of potassium hydroxide (6 N KOH). The mixture was concentrated under vacuum, diluted with water (5 mL), neutralized with cold 2N HCl. The solid precipitated was filtered and dried to give the desired product.

reactant | 2-(2-amino-6-phenyl-pyrimidin-4-ylamino)-benzoic acid ethyl ester | 0.59 mmol, 0.2 g | C(C)OC(C1=C(C=CC=C1)NC1=NC(=NC(=C1)C1=CC=CC=C1)N)=O | C19H18N4O2
reactant | potassium hydroxide | 6 N | [OH-].[K+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-(2-Amino-6-phenyl-pyrimidin-4-ylamino)-benzoic acid | NC1=NC(=CC(=N1)NC1=C(C(=O)O)C=CC=C1)C1=CC=CC=C1 | C17H14N4O2
